US05866567
(3aR*,10aS*)-9-[4-(3-Benzyl-3-methylureido)benzyl]-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]-cyclopenta[e][1,4]diazepin-l0(1H)-one
To a solution of (3aR*,10aS*)-9-[4-(3-benzyl-3-methylureido)benzyl]-2,3,3a,4,9,10a-hexahydrobenzo[b]-cyclopenta[e][1,4]diazepin-10(1H)-one (0.30 g, 0.66 mmol) in dichloromethane (5 mL) was added bromoacetyl bromide (58 μL, 0.67 mmol) and the mixture was stirred at room temperature for 30 minutes. After addition of saturated aqueous NaHCO3 solution, the aqueous layer was separated and extracted with dichloromethane. The pooled organic layer was washed with water, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane-ethyl acetate=1:11:2) to recover an amorphous fraction containing (3aR*,10aS*)-9-[4-(3-benzyl-3-methylureido)benzyl]-4-(bromoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]-cyclopenta[e][1,4]diazepin-10(1H)-one. This amorphous fraction was dissolved in DMF (1.5 mL) and after addition of potassium phthalimide (93 mg, 0.5 mmol), the solution was stirred at room temperature for 1.5 hours. This reaction mixture was diluted with water and extracted with 3 portions of ethyl acetate. The pooled organic layer was washed with water, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=2:11:11:2) and crystallized from ethyl acetate-diethyl ether to provide 57 mg (yield 13%) of the title compound. m.p. 156°-158° C.

reactant | (3aR*,10aS*)-9-[4-(3-benzyl-3-methylureido)benzyl]-2,3,3a,4,9,10a-hexahydrobenzo[b]-cyclopenta[e][1,4]diazepin-10(1H)-one | 0.66 mmol, 0.30 g | C(C1=CC=CC=C1)N(C(NC1=CC=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=C1)=O)C | C28H30N4O2
reactant | bromoacetyl bromide | 0.67 mmol, 58 μL | BrCC(=O)Br | C2H2Br2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | potassium phthalimide | 0.5 mmol, 93 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (3aR*,10aS*)-9-[4-(3-Benzyl-3-methylureido)benzyl]-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]-cyclopenta[e][1,4]diazepin-l0(1H)-one | 57 mg, yield 13% | C(C1=CC=CC=C1)N(C(NC1=CC=C(CN2C3=C(N([C@H]4[C@@H](C2=O)CCC4)C(CN4C(C=2C(C4=O)=CC=CC2)=O)=O)C=CC=C3)C=C1)=O)C | C38H35N5O5
